US04120969
4-(Hydroxymethyl)-3,3-diphenyl-2-pyrrolidinone
To 750 ml. of methanol and 80.0 g. (0.22 mole) of 4-(1-phenylethylaminomethyl)-4,5-dihydro-3,3-diphenylfuran-2(3H)one was added 3.0 g. of palladium hydroxide catalyst and the mixture was shaken in 3 atmospheres of hydrogen at 70° C. for 18 hrs. Upon filtering starting material was found to be present; fresh catalyst was added to the solution which was shaken in 3 atmospheres of hydrogen at 70° C. for 3 more hours. After filtering the filtrate was concentrated in vacuo. The residue was dissolved in 100 ml. of ethyl acetate, and 100 ml. of isopropyl ether was added. A portion of the crystallized material was recrystallized from the same solvent system to give product melting at 145°-148° C.

reactant | 4-(1-phenylethylaminomethyl)-4,5-dihydro-3,3-diphenylfuran-2(3H)one | 0.22 mole | C1(=CC=CC=C1)C(C)NCC1C(C(OC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H25NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
solvent | methanol | CO | CH4O
product | 4-(Hydroxymethyl)-3,3-diphenyl-2-pyrrolidinone | OCC1C(C(NC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H17NO2
